US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-4-morpholin-4-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine
To a flask containing 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.30 g, 0.76 mmol), morpholine (0.10 mL, 1.15 mmol), Pd2(dba)3 (0.035 g, 0.038 mmol), and 2-dicyclohexylphosphino-biphenyl-2′-(N,N-dimethyl-amino)biphenyl (0.018 g, 0.046 mmol) is added 1 M LiHMDS (1.9 mL, 1.91 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (30 mL), washed with water (20 mL), brine (20 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (15%-30% EtOAc gradient), dissolved in Et2O (20 mL) and extracted with 1 M HCl (2×30 mL). The aqueous layer is washed with Et2O (20 mL), made basic with 5 M NaOH (15 mL), extracted with EtOAc (2×20 mL), the combined organic layers washed with brine (40 mL), dried over MgSO4, filtered and concentrated to furnish the title compound (0.047 g, 0.12 mmol, 16%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.73-1.91 (m, 4H), 2.01 (s, 3H), 2.45 (s, 3H), 2.49 (s, 3H), 2.99-3.05 (m, 4H), 3.28-3.37 (m, 1H), 3.84-3.88 (m, 4H), 6.65 (s, 1H), 6.71 (s, 1H). LC/MS (m/z): calcd. for C22H30N4OS (M+H)+: 399.2; found: 399.2.

reactant | 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.76 mmol, 0.30 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | morpholine | 1.15 mmol, 0.10 mL | N1CCOCC1 | C4H9NO
reactant | 2-dicyclohexylphosphino-biphenyl 2′-(N,N-dimethyl-amino)biphenyl | 0.046 mmol, 0.018 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1.CN(C)C1=C(C=CC=C1)C1=CC=CC=C1
reactant | LiHMDS | 1.91 mmol, 1 M, 1.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.038 mmol, 0.035 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-4-morpholin-4-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine | 0.12 mmol, 0.047 g, 16% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC=C(C2C)N2CCOCC2 | C22H30N4OS
